US07645764B2
A solution of methyl 3-allyl-4-methylbenzoate (2.84 g, 15 mmol) and hydrazine hydrate (2.1 mL, 37.5 mmol) in ethanol (5 mL) was heated to 100° C. for 6 hours. After cooling, the mixture was partitioned between ethyl acetate and water, and the combined organic layers were washed with brine, dried (MgSO4), filtered, and concentrated under reduced pressure to give 3-allyl-4-methyl-benzoic acid hydrazide as a white solid. (Yield 2.80 g, 98.1%).

reactant | methyl 3-allyl-4-methylbenzoate | 15 mmol, 2.84 g | C(C=C)C=1C=C(C(=O)OC)C=CC1C | C12H14O2
reactant | hydrazine hydrate | 37.5 mmol, 2.1 mL | O.NN
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-allyl-4-methyl-benzoic acid hydrazide | C(C=C)C=1C=C(C(=O)NN)C=CC1C | C11H14N2O
